US08530648B2
a) 9-(benzo[d]oxazol-2-yl)-2,9-diazaspiro[5.5]undecan-1-one
To the stirred solution of 2,9-diazaspiro[5.5]undecan-1-one hydrochloride [1187173-73-4] (100 mg, 0.49 mmol) in DMF (3 mL) was added K2CO3 (203 mg, 1.47 mmol) and 2-chloro benzoxazole [615-18-9] (82.8 mg, 0.54 mmol). The mixture was heated at 60° C. for 18 h. The reaction mixture was cooled to rt and concentrated under reduced pressure. To the crude mixture water was added and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated to obtain a yellow solid which was washed with diethyl ether and n-pentane to yield the title compound as solid (100 mg, 72%). [LCMS RtF=0.36 min, [M+H]+=286.1]

reactant | 2,9-diazaspiro[5.5]undecan-1-one hydrochloride | 0.49 mmol, 100 mg | Cl.C1(NCCCC12CCNCC2)=O
reactant | K2CO3 | 1.47 mmol, 203 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro benzoxazole | 0.54 mmol, 82.8 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 9-(benzo[d]oxazol-2-yl)-2,9-diazaspiro[5.5]undecan-1-one | 100 mg, 72% | O1C(=NC2=C1C=CC=C2)N2CCC1(CCCNC1=O)CC2 | C16H19N3O2
